US04260816
4-[N-Acetyl-2-(1-naphthyloxy)ethylamino]benzoic acid
A solution of 6.14 g. of 4-[2-(1-naphthyloxy)ethylamino]benzoic acid and 20 ml. of acetyl chloride in 50 ml. pyridine is warmed on a steam-bath for 8 hours. The dark solution is then poured into 370 ml. of 2 N hydrochloric acid. The resulting solution is then extracted several times with methylene chloride. The residue from evaporation of this extract is crystallized from acetonitrile giving a white solid, m.p. 182°-183° C.

reactant | 4-[2-(1-naphthyloxy)ethylamino]benzoic acid | C1(=CC=CC2=CC=CC=C12)OCCNC1=CC=C(C(=O)O)C=C1 | C19H17NO3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-[N-Acetyl-2-(1-naphthyloxy)ethylamino]benzoic acid | C(C)(=O)N(C1=CC=C(C(=O)O)C=C1)CCOC1=CC=CC2=CC=CC=C12 | C21H19NO4
